US07375099B2
b) 2-[2-(3,5-Difluoro-benzylcarbamoyl)-propionylamino]-3-(1H-indol-3-yl)-propionic acid
2-[2-(3,5-Difluoro-benzylcarbamoyl)-propionylamino]-3-(1H-indol-3-yl)-propionic acid tert-butyl ester (5.99 g, 12.3 mmol) was dissolved in dichloromethane (15 ml), and trifluoroacetic acid (15 ml) was added at 0° C. The mixture was stirred overnight at r.t. until all starting material was consumed (analytical HPLC). The volatiles were evaporated, the residue was taken up in ethyl acetate and washed with water. The organic layers were dried (Na2SO4). After evaporation of the solvent, the title compound, MS: m/e=429.4 (M+H+), (3.5 g, 66%) was obtained by chromatographic purification of the residue (silica gel, MeOH, CH2Cl2).

reactant | 2-[2-(3,5-Difluoro-benzylcarbamoyl)-propionylamino]-3-(1H-indol-3-yl)-propionic acid tert-butyl ester | 12.3 mmol, 5.99 g | C(C)(C)(C)OC(C(CC1=CNC2=CC=CC=C12)NC(C(C)C(NCC1=CC(=CC(=C1)F)F)=O)=O)=O | C26H29F2N3O4
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-[2-(3,5-Difluoro-benzylcarbamoyl)-propionylamino]-3-(1H-indol-3-yl)-propionic acid | FC=1C=C(CNC(=O)C(C(=O)NC(C(=O)O)CC2=CNC3=CC=CC=C23)C)C=C(C1)F | C22H21F2N3O4
